US04966967
9-(1H-Imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
In a manner similar to example 1 react 9-(1H-imidazol-1-yl)-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine with sodium in methanol and ammonia to obtain the title compound.

reactant | 9-(1H-imidazol-1-yl)-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCN(CCO2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H21N3O4S
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
solvent | ammonia | N | H3N
product | 9-(1H-Imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCNCCO2)C=C1 | C13H15N3O2
